US08530493B2
26. (3aSR,10RS)-2-(2-Bromo-ethyl)-6-chloro-10-(3-hydroxy-phenyl)-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione
To a suspension of 1.66 g (5.39 mmol) (1RS,3SR)-6-Chloro-1-(3-hydroxy-phenyl)-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester in 20 ml 2-butanon are added 490 μl 2-bromoethyl isocyanate. After heating the mixture to reflux for 4 h, additional 490 μl 2-bromoethyl isocyanate are added and the mixture is heated to reflux over night. The solvent is removed at reduced pressure and the residue is dissolved in 20 ml dimethyl formamide. The mixture is stirred at 80° C. for 15 h. The solvent is removed at reduced pressure and the residue is dissolved in ethyl acetate. Water is added and the organic layer is dried with magnesium sulfate. The solvent is removed at reduced pressure and the residue is suspended in a mixture of toluene and ethyl acetate (4:1). The suspension is filtered. 1.35 g (62%) of the title compound are obtained as the precipitate. m.p.: 262-264° C., MS: m/z (MH+)=488.0/490.0

reactant | (1RS,3SR)-6-Chloro-1-(3-hydroxy-phenyl)-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester | 5.39 mmol, 1.66 g | COC(=O)C1(NC(C=2NC3=CC=C(C=C3C2C1)Cl)C1=CC(=CC=C1)O)C | C20H19ClN2O3
reactant | 2-bromoethyl isocyanate | 490 μl | BrCCN=C=O | C3H4BrNO
reactant | 2-bromoethyl isocyanate | 490 μl | BrCCN=C=O | C3H4BrNO
solvent | 2-butanon | 20 ml | CC(CC)=O | C4H8O
product | (3aSR,10RS)-2-(2-Bromo-ethyl)-6-chloro-10-(3-hydroxy-phenyl)-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione | 1.35 g, 62% | BrCCN1C(C2(N(C(C=3NC4=CC=C(C=C4C3C2)Cl)C2=CC(=CC=C2)O)C1=O)C)=O | C22H19BrClN3O3
